US08809342B2
(S)-2-methyl-propane-2-sulfinic acid {(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butyl}-amide (38.83 g, 93.90 mmol) was dissolved in methanol and transferred to a 3-necked 1 L flask with overhead stirring and internal temperature. A total of 210 mL methanol was added to give a yellow solution. This was placed in an ice bath and at an internal temperature of 8° C., HCl in ether (188 mL, 2.0 M, 376 mmol) was added over 2 min. The temperature went up to 14° C. The ice bath was removed and the reaction stirred for ˜5 min as a yellow solution than as a white slurry. At 30 min, the reaction was rotovapped to dryness and the solid slurried in diethylether (200 mL) for 1 h. The solid was collected by Buchner filtration, washing with additional diethylether. This was suction dried for ˜1 h and then placed on the vacuum pump to give (S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamine hydrochloride (31.58 g, 97%) as a white solid. 1H NMR (400 MHz, DMSO-d6, δ): 9.19 (s, 2 H) 8.78 (br. s., 3 H) 8.61 (d, J=8.2 Hz, 2 H) 7.93 (d, J=8.4 Hz, 2 H) 4.47 (br. s., 1 H) 1.84-2.03 (m, 2 H) 1.41 (m, 1 H) 0.83-0.96 (m, 6 H).

reactant | (S)-2-methyl-propane-2-sulfinic acid {(S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butyl}-amide | 93.90 mmol, 38.83 g | CC(C[C@@H](C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)N[S@@](=O)C(C)(C)C)C | C20H26F3N3OS
reactant | HCl | Cl | ClH
reactant | ether | 376 mmol, 2.0 M, 188 mL | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 210 mL | CO | CH4O
product | (S)-3-methyl-1-[2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butylamine hydrochloride | 31.58 g, 97% | Cl.CC(C[C@@H](C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)N)C | InChI=1S/C16H18F3N3.ClH/c1-10(2)7-14(20)12-8-21-15(22-9-12)11-3-5-13(6-4-11)16(17,18)19;/h3-6,8-10,14H,7,20H2,1-2H3;1H/t14-;/m0./s1
